US08975406B2
(R)-tert-Butyl 4-(4-(2-(cyclopropanecarboxamido)pyrazolo[1,5-a]pyridin-4-yl)benzyl)-3-methylpiperazine-1-carboxylate (162 mg, 0.33 mmol) was stirred in DCM (2 mL) and TFA (0.3 mL) at room temperature for 2 h. The reaction mixture was concentrated in vacuo and loaded onto an SCX column in DCM. MeOH (20 mL) was passed through the column and the compound was eluted with (7 N NH3 in MeOH in MeOH) (1:5) (50 mL). The filtrate was concentrated in vacuo to give (R)—N-(4-(4-((2-methylpiperazin-1-yl)methyl)phenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide.

reactant | (R)-tert-Butyl 4-(4-(2-(cyclopropanecarboxamido)pyrazolo[1,5-a]pyridin-4-yl)benzyl)-3-methylpiperazine-1-carboxylate | 0.33 mmol, 162 mg | C1(CC1)C(=O)NC1=NN2C(C(=CC=C2)C2=CC=C(CN3[C@@H](CN(CC3)C(=O)OC(C)(C)C)C)C=C2)=C1 | C28H35N5O3
reactant | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(4-((2-methylpiperazin-1-yl)methyl)phenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide | C[C@H]1N(CCNC1)CC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(C2)NC(=O)C2CC2 | C23H27N5O
